US08471005B2
A mixture of 2-Methoxy-4-[4-(4-methyl-piperazin-1-yl)-piperidin-1-yl]-phenylamine (1.25 g, 0.00411 mol) (for preparation see: Ahmed, et al. WO2008051547), 7-Bromo-2-methanesulfinyl-pyrrolo[2,1-f][1,2,4]triazine (0.75 g, 0.0029 mol) and N,N-Diisopropylethylamine (2.02 mL, 0.0116 mol) in 2-Methoxyethanol (10 mL) was heated in the microwave at 170° C. for 90 minutes. Purification by Isco chromatography gave (7-Bromo-pyrrolo[2,1-f][1,2,4]triazin-2-yl)-{2-methoxy-4-[4-(4-methyl-piperazin-1-yl)-piperidin-1-yl]-phenyl}-amine as a tan solid (0.50 g, 35%). MP: 171-173° C.; LCMS (m/e) 500 (M); 1H-NMR (DMSO-d6, 400 MHz) δ 8.83 (s, 1H), 8.02-8.00 (d, 1H, J=8.76 Hz), 7.74 (s, 1H), 6.93-6.85 (q, 2H, J=4.76 Hz), 6.67-6.66 (s, 1H), 6.52-6.49 (d, 1H, J=6.40 Hz), 3.85 (s, 3H), 3.71-3.68 (d, 2H, J=12.20 Hz), 2.67-2.62 (t, 2H, J=11.80 Hz), 2.31-2.28 (br, 4H), 1.83 (s3H), 1.86-1.83 (d, 2H), 1.55-1.50 (2, 2H).

reactant | 2-Methoxy-4-[4-(4-methyl-piperazin-1-yl)-piperidin-1-yl]-phenylamine | 0.00411 mol, 1.25 g | COC1=C(C=CC(=C1)N1CCC(CC1)N1CCN(CC1)C)N | C17H28N4O
reactant | 7-Bromo-2-methanesulfinyl-pyrrolo[2,1-f][1,2,4]triazine | 0.0029 mol, 0.75 g | BrC1=CC=C2C=NC(=NN21)S(=O)C | C7H6BrN3OS
reactant | N,N-Diisopropylethylamine | 0.0116 mol, 2.02 mL | C(C)(C)N(C(C)C)CC | C8H19N
solvent | 2-Methoxyethanol | 10 mL | COCCO | C3H8O2
product | (7-Bromo-pyrrolo[2,1-f][1,2,4]triazin-2-yl)-{2-methoxy-4-[4-(4-methyl-piperazin-1-yl)-piperidin-1-yl]-phenyl}-amine | 0.50 g, 35% | BrC1=CC=C2C=NC(=NN21)NC2=C(C=C(C=C2)N2CCC(CC2)N2CCN(CC2)C)OC | C23H30BrN7O
